US07601856B2
A solution of tert-butyl [(1S)-1-methyl-2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate (0.10 g) in 4 N HCl in dioxane (3 mL) and dichloromethane (3 mL) was stirred at room temperature for 30 min and then concentrated to provide N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-yl-L-prolinamide (46 mg) as its hydrochloric acid salt. MS (ESI) m/z 299 ([M+H]+).

reactant | tert-butyl [(1S)-1-methyl-2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate | 0.10 g | C[C@@H](C(NC1=CC2=C(OC3=C2CCCCC3)C=C1)=O)NC(OC(C)(C)C)=O | C21H28N2O4
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4 N | Cl | ClH
product | N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-yl-L-prolinamide | 46 mg | C1=C(C=CC=2OC3=C(C21)CCCCC3)NC([C@H]3NCCC3)=O | C18H22N2O2
